US07601745B2
Synthesis of 4-Formyl-piperidine-1-carboxylic acid t-butyl ester
4-(methoxy-methyl-carbamoyl)-piperidine-1-carboxylic acid tert-butyl ester (1.0 eq, 16.4 mmol) was dissolved in 100 ml dry tetrahydrofurane under inert atmosphere. This solution was added dropwise over a period of 1 h to a suspension of lithiumalanate (3.0 eq, 49.6 mmol) in 70 ml dry tetrahydrofurane at −50° C. During the adding of the mixture, the temperature was held at −50° C. and then allowed to warm to 0° C. within 3 h.

reactant | 4-(methoxy-methyl-carbamoyl)-piperidine-1-carboxylic acid tert-butyl ester | 16.4 mmol, 1.0 eq | C(C)(C)(C)OC(=O)N1CCC(CC1)C(N(C)OC)=O | C13H24N2O4
solvent | tetrahydrofurane | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 70 ml | O1CCCC1 | C4H8O
product | 4-Formyl-piperidine-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C=O | C11H19NO3
